US08283353B2
6-{[3-fluoro-2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-7-propylpyrazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of 3′-fluoro-4′-({4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.26 g), trimethylsilylazide (0.66 mL), dibutyltinoxide (0.060 g) and toluene (3 mL) was stirred at 100° C. for 20 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (3 mL). Tetrabutylammonium fluoride (1.0 M tetrahydrofuran solution, 0.9 mL) was added, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with ethyl acetate, washed with 1 M hydrochloric acid, then with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless amorphous solid (0.13 g, 46%).

reactant | 3′-fluoro-4′-({4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.26 g | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CC2)[C@@H]2CC[C@H](CC2)OCC(C)(C)O)=O)C=2C(=CC=CC2)C#N | C33H37FN4O3
reactant | trimethylsilylazide | 0.66 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltinoxide | 0.060 g | C(CCC)[Sn](CCCC)=O
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-{[3-fluoro-2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-7-propylpyrazolo[1,5-a]pyrimidin-5(4H)-one | 0.13 g, 46% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CC2)[C@@H]2CC[C@H](CC2)OCC(C)(C)O)=O)C2=C(C=CC=C2)C2=NN=NN2 | C33H38FN7O3
